* C:\Users\shohei\Desktop\LTspice\tutorial\bjt.asc
L1 N002 N003 55m
D1 N001 N002 D
V1 N004 0 PULSE(0 5 .5 .01u .01 1)
V2 N002 0 12
Q1 N001 P001 N005 0 MyBJT
R2 N004 P001 5k
R1 N003 N001 33
R3 N005 0 10
.model D D
.lib \\Mac\Home\Documents\LTspiceXVII\lib\cmp\standard.dio
.model NPN NPN
.model PNP PNP
.lib \\Mac\Home\Documents\LTspiceXVII\lib\cmp\standard.bjt
.tran 1
.step param MyBF list 50 100 200
.MODEL MyBJT AKO: 2N2222 (Bf=MyBF)
.backanno
.end
